US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1S)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide
The title compound was prepared according to the procedure outlined in example 24 using 2-[[6-[(1-azetidinylsulfonyl)amino]-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2S)-propanoic acid, ethyl ester, (the product of step ii) (0.28 g), THF (8 mL) and 2M lithium borohydride in THF (0.57 mL). Purification was by column chromatography on silica using EtOAc/isohexane (2:3) as eluent to give the title compound as a white solid. Yield: 0.15 g

reactant | 2-[[6-[(1-azetidinylsulfonyl)amino]-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2S)-propanoic acid, ethyl ester | N1(CCC1)S(=O)(=O)NC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O[C@H](C(=O)OCC)C | C19H22F2N4O5S2
reactant | lithium borohydride | 2M | [BH4-].[Li+]
solvent | THF | 0.57 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1S)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)O[C@H](CO)C | C17H20F2N4O4S2
